US09029374B2
EDCI (102 mg, 0.53 mmol) was added in one portion to 8-(1-(3,5-difluorophenylamino) ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (200 mg, 0.35 mmol, enantiomer 2 ([α]D20°−102°, described as a starting material in Example 7.0a), (S)-pyrrolidin-3-ol (0.043 mL, 0.53 mmol) and HOPO (47.1 mg, 0.42 mmol) dissolved in DCM (2 mL) in a screwcap vial. The resulting solution was stirred at RT for 5 min then 50° C. for 30 min. More EDCI (˜50 mg) was added to complete the reaction. The solution was washed with a 10% aq. citric acid solution, water, brine and dried over magnesium sulfate. The solvent was evaporated and the crude product purified by flash chromatography on silica gel (40 g) eluting with 0 to 10% MeOH in DCM. The solvent was evaporated to dryness to afford 8-(1-(3,5-difluorophenylamino)ethyl)-6-((S)-3-hydroxypyrrolidine-1-carbonyl)-2-morpholino-4H-chromen-4-one (95%) as a off-white foam. Mass Spectrum: M+H+ 500. NMR Spectrum (CDCl3): 1.60 (d, 3H), 1.89-2.11 (m, 1H), 2.54 (bs, 0.5H), 2.81 (bs, 0.5H), 3.29-3.43 (m, 2H), 3.51 (bs, 4H), 3.64-3.78 (m, 2H), 3.79-3.91 (m, 5H), 4.42 (bs, 0.5H), 4.54 (bs, 0.5H), 4.59 (bs, 0.5H), 4.70 (bs, 0.5H), 4.87-4.95 (m, 1H), 5.54 (bs, 1H), 5.89-6.01 (m, 2H), 6.09 (dd, 1H), 7.85 (s, 0.5H), 7.87 (s, 0.5H), 8.18 (bs, 0.5H), 8.25 (bs, 0.5H).

reactant | EDCI | 0.53 mmol, 102 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 8-(1-(3,5-difluorophenylamino) ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | FC=1C=C(C=C(C1)F)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O | C22H20F2N2O5
reactant | (S)-pyrrolidin-3-ol | 0.53 mmol, 0.043 mL | N1C[C@H](CC1)O | C4H9NO
reactant | HOPO | 0.42 mmol, 47.1 mg | OP=O | HO2P
reactant | EDCI | ˜50 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 8-(1-(3,5-difluorophenylamino)ethyl)-6-((S)-3-hydroxypyrrolidine-1-carbonyl)-2-morpholino-4H-chromen-4-one | 95% | FC=1C=C(C=C(C1)F)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N1C[C@H](CC1)O | C26H27F2N3O5
